US05529766
1-Chloroethyl 4-Acryloyloxybutyl Carbonate
Pyridine (0.89 ml, 11.00 mmol) is added dropwise to a solution of 1-chloroethyl chloroformate (1.20 ml, 11.00 mmol) and 4-hydroxybutyl acrylate (1.38 ml, 10.00 mmol) in dichloromethane (12 ml) at 3° C. under a dry N2 atmosphere. After 15 min. at 3° C. and 17 hours at 20° C. the reaction mixture is transferred to a separating funnel with the aid of dichloromethane (10 ml). The reaction mixture is washed with hydrochloric acid (1.00M, 10 ml), saturated aqueous sodium hydrogen carbonate (10 ml) and water (2×10 ml). The organic phase is dried (MgSO4) and the solvent evaporated under reduced pressure to give 2.26 g (90%) of the title product. 1H NMR (60 MHz, CDCl3): δ 1.80 (4 H, m, CH2 --CH2), 1.86 (3 H, d, J=5 Hz, CH3), 4.24 (4 H, m, 2×CH2 --O), 5.7-6.6 (4 H, m, CH=CH2 and CH).

reactant | Pyridine | 11.00 mmol, 0.89 ml | N1=CC=CC=C1 | C5H5N
reactant | 1-chloroethyl chloroformate | 11.00 mmol, 1.20 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | 4-hydroxybutyl acrylate | 10.00 mmol, 1.38 ml | C(C=C)(=O)OCCCCO | C7H12O3
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-Chloroethyl 4-Acryloyloxybutyl Carbonate | 2.26 g, 90% | C(OC(C)Cl)(OCCCCOC(C=C)=O)=O | C10H15ClO5
